US06964961B2
C. (+/−)-Cyclobutanecarboxylic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
To a solution of (3-amino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone (0.40 g, 1.4 mmol) and DMAP (0.693 g, 5.68 mmol) in CH2Cl2 (20 mL) was added cyclobutane carboxylic acid chloride (0.20 g, 1.7 mmol). After 3 h the reaction was quenched with distilled water (10 mL). The aqueous layer was extracted with CH2Cl2 (2×10 mL). The combined organic extracts were dried (Na2SO4), and concentrated onto silica gel (5 mL). Purification by flash chromatography on silica gel (CH2Cl2/MeOH 97:3) afforded the title compound as a white solid (0.36 g, 69%). MS: 364/366 (MH+); HPLC Rf: 4.24 min; HPLC purity: 94%.

reactant | (3-amino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone | 1.4 mmol, 0.40 g | NC1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C12H12ClN3OS
reactant | cyclobutane carboxylic acid chloride | 1.7 mmol, 0.20 g | C1(CCC1)C(=O)Cl | C5H7ClO
catalyst | DMAP | 5.68 mmol, 0.693 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (+/−)-Cyclobutanecarboxylic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | 0.36 g, 69% | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NC(=O)C2CCC2 | C17H18ClN3O2S
